Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
abdominal pain for 2 weeks with acute worsening accompanied by 
nausea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with PMH sigmoid diverticulosis, hypothyroidism and remote 
h/o metastatic sarcoma who is presenting with 2 weeks spasmodic 
abdominal pain worsening over the last day and a half with new 
onset nausea. Pt reports unexpected onset of waves of abd pain. 
Pt denies any association of pain with eating, movement, or 
specific activity. She report having to sit down and stop doing 
activities with pain onset. Pain is diffuse in location and 
lasts for minutes. Pt has also had poorer PO intake ___ to abd 
pain for past 2 weeks. She denies any change in BMs until after 
coming to hospital at which time she has had 3 episodes of 
diarrhea, unknown bloody or other characteristics. Pt denies 
dysuria, and flank pain. 

She denies any shortness of breath or cough. She denies recent 
travel, sick contacts, antibiotic use.

In the ED, VS were 97.7 100 133/76 20 97% ra. Labs were notable 
for WBC ct 13.9 with left shift, UA was negative except spec 
___ 1.040, and LFTs and lytes were WNL. She was given 5 mg 
morphine IV for pain. ACS was consulted and did not feel she had 
a surgical abd. Pt was given IVF, flagyl  500mg , and cipro IV 
400mg  in the ED for concern for infectious colitis. Subsequent 
VS were 0 98 66 126/53 18 99% ra. 
 
On the floor, VS were 97.3 141/49 68 18 97RA wt 43.4kg. Pt was 
in no acute distress.

Review of Systems:  
(+)  abd pain, nausea, and recent 3 episodes of diarrhea
(-) fever, chills, night sweats, headache, sore throat, cough, 
shortness of breath, chest pain, vomiting, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria.  
  
 
Past Medical History:
- Hypothyroidism
- ___ ___ Diverticulosis of the sigmoid colon
- h/o metastatic malignant fibrous histiocytoma with
complete response of the right femoral head diagnosed in ___, s/p 3 cycles of Adriamycin, mitomycin and cisplatinum 
chemotherapy 

Past Surgical History:
- Right hip replacement for sarcoma
- bilateral cataracts surgery

 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION
Vitals- VS 97.3 141/49 hr 68 rr 18 97%ra wt 43.3kg
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP at 6cm and not elevated 
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, active bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro- motor function grossly normal  

DISCHARGE
Vitals- 97.4 142/44 69 100% ra rr 18
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP at 6cm and not elevated 
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, active bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro- motor function grossly normal  
 
Pertinent Results:
ADMISSION LABS
___ 09:55PM BLOOD WBC-13.9*# RBC-4.20# Hgb-11.0*# 
Hct-35.4*# MCV-84# MCH-26.3* MCHC-31.2 RDW-16.5* Plt ___
___ 09:55PM BLOOD Neuts-81.0* Lymphs-12.9* Monos-4.9 
Eos-1.0 Baso-0.1
___ 09:55PM BLOOD Plt ___
___ 09:55PM BLOOD Glucose-125* UreaN-26* Creat-0.8 Na-140 
K-4.3 Cl-101 HCO3-28 AnGap-15
___ 09:55PM BLOOD ALT-12 AST-20 AlkPhos-40 TotBili-0.2
___ 09:55PM BLOOD Lipase-19
___ 09:55PM BLOOD Albumin-3.6
___ 02:33AM BLOOD Lactate-1.3

URINE
___ 02:05AM URINE Color-Yellow Appear-Clear Sp ___
___ 02:05AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-SM 
___ 02:05AM URINE RBC-1 WBC-3 Bacteri-NONE Yeast-NONE 
Epi-<1

DISCHARGE LABS:
___ 05:45AM BLOOD WBC-6.6# RBC-3.62* Hgb-9.2* Hct-29.7* 
MCV-82 MCH-25.4* MCHC-31.0 RDW-16.3* Plt ___
___ 05:45AM BLOOD Glucose-71 UreaN-14 Creat-0.7 Na-142 
K-4.0 Cl-107 HCO3-26 AnGap-13

IMAGING
CXR ___
Frontal and lateral views of the chest demonstrate low lung 
volumes.  No
pleural effusion, focal consolidation or pneumothorax is seen.  
Hilar and
mediastinal silhouettes are unchanged.  Heart size is top 
normal.  Aorta
appears slightly tortuous with aortic arch calcifications.  The 
increased size
of a large hiatal hernia is exaggerated by lower lung volumes 
than in ___. 
Compression deformity of L1 vertebral body is chronic.
 
IMPRESSION:
 
No evidence of acute cardiopulmonary process.

CT ABD/PELVIS ___
1.  Approximately 10 cm segment of the distal ileum/cecum, which 
demonstrates
marked bowel wall thickening.  There is no significant fat 
stranding or fluid
adjacent to this bowel loop.  The differential considerations 
include
infection, inflammation or ischemia of subacute/chronic nature.  
Underlying
mass lesion is also considered due to lack of associated 
stranding and acute
inflammatory changes.
2.  Large hiatal hernia. 
3.  Extensive calcified atherosclerotic disease of the aorta and 
its branches
without associated aneurysmal changes.
4.  Compression deformities of L5 and L1 vertebral bodies with 
associated
sclerosis, likely chronic.
5.  Fibroid uterus.
6.  Intermediate density renal lesions, which can be further 
assessed with
renal ultrasound on non-emergent basis.  There is a 1.5 x 1.2 cm 
hypodense lesion in the lower pole of the left kidney measuring 
50 Hounsfield units in attenuation (2:34) there is a
1 x 1 cm hypodensity in the lower pole of the right kidney 
measuring 72
Hounsfield units (2:37).
 
 

MICRO:

            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 
 
Brief Hospital Course:
___ with PMH sigmoid diverticulosis, hypothryoidism presents 
with 2 weeks of abd pain, new onset diarrhea, and transient 
nausea with elevated WBC ct, concentrated urine, and imaging 
colitis in ileal-cecal area c/f infectious vs. ischemic colitis.

ACTIVE ISSUES:
# Abd pain: In ___ with new onset acute abdominal pain, the 
initial concern was for ischemic vs. infectious colitis. 
Ischemic picture is supported by pt's known calcific lesions in 
aorta, suggesting possibility of vessel narrowing disease or 
atheroembolic disease. Pt was given IVF gently and never had 
abdominal pain during hospitalization. Pt's UA with specific 
gravity of 1.040 was suggestive of concentrated urine indicating 
possibly hypovelemia. Ms ___ may have had infectious colitis, 
given elevated WBC count. Pt was given cipro/flagyl in the ED 
for possible infectious colitis. Pt was continued on treatment 
for infectious colitis with ciprofloxacin and flagyl. After pt 
was discharged, stool cultures for C. diff, salmonella, 
shigella, campylobacter later returned negative. Surgery was 
initially consulted in the ED and followed briefly while patient 
was inpatient, however, as the patient improved with 
conservative measures, it became clear that pt would not require 
surgical intervention.

CHRONIC ISSUES
# Hypothyroidism: Pt was continued on 137mcg/day po 
levothyroxine

TRANSITION ISSUES:
# CT abdomen showed incidental renal lesions, described as 
:intermediate density renal lesions", which can be further 
assessed with renal ultrasound on non-emergent basis
# Based on pt's likely ischemic colitis, we would recommend 
further discussion regarding need for outpatient colonoscopy to 
assess for presence of mass
# Three blood cultures are pending

# Code: Full (discussed with patient)  
# Communication: Patient   
# Emergency Contact:   Daughter ___ = ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 137 mcg PO DAILY 
2. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
3. Hydrocodone-Acetaminophen (5mg-500mg) 1 TAB PO Q6H:PRN pain 
hold for sedation and RR<12 
4. Vitamin B Complex 1 CAP PO DAILY 
5. Ranitidine 150 mg PO BID 
6. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Multivitamins 1 TAB PO DAILY 
2. Levothyroxine Sodium 137 mcg PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO DAILY 
4. Ciprofloxacin HCl 500 mg PO Q24H 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth q25h Disp #*6 
Tablet Refills:*0
5. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*18 Tablet Refills:*0
6. Hydrocodone-Acetaminophen (5mg-500mg) 1 TAB PO Q6H:PRN pain 
hold for sedation and RR<12 
7. Ranitidine 150 mg PO BID 
8. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
9. Vitamin B Complex 1 CAP PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Colitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___

___ was a pleasure taking care of you at ___. You were admitted 
for abdominal pain with poor appetite, nausea, and a few 
episodes of diarrhea in the emergency department. We performed 
imaging of your abdomen, which showed inflammation of your 
colon. We treated you with fluids given through your veins and 
antibiotics in case your pain was from an infection. You 
improved during your stay, and we discharged you after you were 
able to eat. Please continue to take the antibiotics as 
prescribed through ___.

We would like you to follow-up with you primary care doctor to 
further discuss whether you should undergo colonoscopy to 
evaluation your colon more closely.
 
Followup Instructions:
___